US07268231B2
To a mixture of 2-(2,4-bis-trifluoromethyl-benzylamino)-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (94.5 mg, 0.20 mmol), 1,5-naphthyridine-6-carboxaldehyde (31.7 mg, 0.20 mmol) and iPrOH (5.0 mL) in a 25-mL round bottom flask was added piperidine (0.05 mL) and the suspension was then heated under refluxing for 4.5 hrs to give a suspension. The reaction mixture was cooled to r.t. and the solid was collected by filtration, washed with MeOH, ether and dried in vacuum at 100° C. for 3 h to give 2-(2,4-bis-trifluoromethyl-benzylamino)-5-[1,5]naphthyridin-2-ylmethylene-1,5-dihydro-imidazol-4-one as a light yellow solid (21.6 mg, 23.2%). HR-ES (+) m/e calcd. for C21H13F6N5O: (M+H)+ 466.1097. Found: 466.1098.

reactant | 2-(2,4-bis-trifluoromethyl-benzylamino)-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.20 mmol, 94.5 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NCC1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C20H15F6N3O3
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.20 mmol, 31.7 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | piperidine | 0.05 mL | N1CCCCC1 | C5H11N
solvent | iPrOH | 5.0 mL | CC(C)O | C3H8O
product | 2-(2,4-bis-trifluoromethyl-benzylamino)-5-[1,5]naphthyridin-2-ylmethylene-1,5-dihydro-imidazol-4-one | 21.6 mg, 23.2% | FC(C1=C(CNC=2NC(C(N2)=O)=CC2=NC3=CC=CN=C3C=C2)C=CC(=C1)C(F)(F)F)(F)F | C21H13F6N5O
